US05018380
P(NVI-VP) was prepared by charging 1.4 gm of potassium persulfate and 450 ml of water into a 1 liter 3-neck round bottom flask equipped with an addition funnel, mechanical stirrer, condenser, thermometer, and nitrogen purge. The solution was stirred for 30 minutes while being purged with nitrogen and thereafter heated to 60° C. A mixture of 55 gms (0.5 mols) of N-vinylpyrrolidinone (VP) and 47 gms (0.5 mols) of N-vinylimidazole (NVI) was added over 1.25 hours. The reaction temperature was increased to 85° C. for 2 hours, then the mixture was allowed to cool to 25° C. and 1.0 gm. of azoisobutyronitrile (AIBN) was added. The mixture was then reheated to 85° C. and held there for 1 hour before cooling to 25° C. The polymer was precipitated by addition of 1,4 dioxane. After filtering, the polymer was dried overnight under vacuum at 60° C. The yield was 53.6 g of polymer (52.5%), ninh (EtOH, 30° C.)=0.885. The elemental analysis was 62.93% C, 7.31% H, 20.23% N, C/N=3.11. The polymer was calculated to be 47.1 mol.% NVI and 52.9 mol.% VP.

reactant | potassium persulfate | 1.4 gm | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | N-vinylpyrrolidinone | 0.5 mols, 55 gms | C(=C)N1C(CCC1)=O | C6H9NO
reactant | N-vinylimidazole | 0.5 mols, 47 gms | C(=C)N1C=NC=C1 | C5H6N2
solvent | water | 450 ml | O | H2O
product | NVI VP | C(=C)N1C=NC=C1.C(=C)N1C(CCC1)=O | InChI=1S/C6H9NO.C5H6N2/c1-2-7-5-3-4-6(7)8;1-2-7-4-3-6-5-7/h2H,1,3-5H2;2-5H,1H2
